US04190431
A solution of N-(m-nitrophenyl) hydroxylamine (19.0 g.) in dioxane (100 ml.), water (25 ml.) and sodium bicarbonate (11.0 g.) was cooled to 5° C. Ethyl chloroformate (13.3 g; 11.8 ml.) was added to the solution and the mixture stirred at 5° C. for about 1/2 hour. The reaction mixture was poured into ice water (300 ml.) and the precipitate therefrom was removed by filtering and was dried by standing. The solid product was recrystallized from benzene-hexane mixture and dried under vacuum to yield ethyl (3-nitrophenyl)-N-hydroxyurethane as yellow crystals melting 103°-105° C.

reactant | N-(m-nitrophenyl) hydroxylamine | 19.0 g | [N+](=O)([O-])C=1C=C(C=CC1)NO | C6H6N2O3
reactant | sodium bicarbonate | 11.0 g | C([O-])(O)=O.[Na+]
reactant | Ethyl chloroformate | 11.8 ml, 13.3 g | ClC(=O)OCC | C3H5ClO2
reactant | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | water | 25 ml | O | H2O
product | ethyl (3-nitrophenyl)-N-hydroxyurethane | C(C)C(OC(N(O)C1=CC(=CC=C1)[N+](=O)[O-])=O)C | C11H14N2O5
